US05965589
According to the same manner as that described in Example 23, 2-[3-(4-isopropoxyphenyl)propyl]-1,3-dioxolane was condensed with 2,4-thiazolidinedione, and the resulting compound was subjected to catalytic hydrogenation to give crystals of 5-[4-(4-isopropoxyphenyl)butyl]-2,4-thiazolidinedione (yield: 68%). This product was recrystallized from ether-hexane. Colorless prisms, mp: 72-73° C.

reactant | 2-[3-(4-isopropoxyphenyl)propyl]-1,3-dioxolane | C(C)(C)OC1=CC=C(C=C1)CCCC1OCCO1 | C15H22O3
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[4-(4-isopropoxyphenyl)butyl]-2,4-thiazolidinedione | yield: 68% | C(C)(C)OC1=CC=C(C=C1)CCCCC1C(NC(S1)=O)=O | C16H21NO3S
